US07071359B1
Preparation of (1S,2R,3R,5S)-7-[(E)-5-morpholinopentylidene]-2-[(3S,1E)-3-hydroxy-4-methyl-6-octyne-1-enyl]-3-hydroxybicyclo[3.3.0]octane
20 mg of (1S,2R,3R,5S)-7-[(E)-4-carboxybutylidene]-2-[(3S,1E)-3-hydroxy-4-methyl-6-octyne-1-enyl]-3-hydroxybicyclo[3.3.0]octane was taken and dissolved in 2 mL of dimethylformamide. After addition of 20 mg of 1,1′-carbonyldiimidazole, it was stirred at 50° C. for 1.5 hours. It was then cooled to ambient temperature, and 100 mg of morpholine was added. After stirring at 50° C. for 2 hours, an aqueous solution saturated with ammonium chloride was added and extraction was performed with ethyl acetate. The organic layer was washed with a saturated saline solution, and dried with anhydrous sodium sulfate. After filtration and concentration, 3 mL of tetrahydrofurane was added. While stirring, 100 mg of lithium aluminium hydride was added, and stirring continued at 50° C. for 3 hours. While stirring at ambient temperature, 200 μL of an aqueous solution saturated with sodium sulfate was added, then 1 g of anhydrous sodium sulfate was added, and stirred for 16 hours. A filtration was performed over celite, and after washing the residue with ethyl acetate, the filtrate was concentrated and subjected to a silicagel column chromatography, to obtain 7 mg of the compound presented in the title (40% yield).

reactant | (1S,2R,3R,5S)-7-[(E)-4-carboxybutylidene]-2-[(3S,1E)-3-hydroxy-4-methyl-6-octyne-1-enyl]-3-hydroxybicyclo[3.3.0]octane | 20 mg | C(=O)(O)CCC\C=C\1/C[C@H]2C[C@H]([C@@H]([C@H]2C1)\C=C\[C@H](C(CC#CC)C)O)O | C22H32O4
reactant | 1,1′-carbonyldiimidazole | 20 mg | C(=O)(N1C=NC=C1)N1C=NC=C1 | C7H6N4O
reactant | morpholine | 100 mg | N1CCOCC1 | C4H9NO
reactant | ammonium chloride | [Cl-].[NH4+]
solvent | dimethylformamide | 2 mL | CN(C=O)C | C3H7NO
product | (1S,2R,3R,5S)-7-[(E)-5-morpholinopentylidene]-2-[(3S,1E)-3-hydroxy-4-methyl-6-octyne-1-enyl]-3-hydroxybicyclo[3.3.0]octane | 7 mg, 40% yield | O1CCN(CC1)CCCC\C=C\1/C[C@H]2C[C@H]([C@@H]([C@H]2C1)\C=C\[C@H](C(CC#CC)C)O)O | C26H41NO3
